US06544990B2
N-(4-chlorobenzyl)-8-(4-hydroxy-1-butynyl)-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide
A solution of N-(4-chlorobenzyl)-8-iodo-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide (0.074 g), copper iodide (0.013 g), Pd(PPh3)2Cl2 (0.007 g) and 3-butyn-1-ol (0.02 mL) in 7 mL diethylamine is stirred at room temperature for 3 days. The reaction is partitioned between CH2Cl2 and H20. The aqueous is extracted 3× with CH2Cl2. The organics are combined, dried over Na2SO4, filtered and concentrated. The residue is dissolved in CH2Cl2 and adsorbed onto silica. Purification by Biotage Flash 40S chromatography (eluent CH2Cl2 (1L), 0.5% MeOH/CH2Cl2 (1L), 1% MeOH/CH2Cl2 (1L), 1.5% MeOH/CH2Cl2 (1L), 2% MeOH/CH2Cl2 (1L), 3% MeOH/CH2Cl2 (1L), 5% MeOH/CH2Cl2 (1L), 7% MeOH/CH2Cl2 (1L)) affords the product as a tan residue. The residue is dissolved in a minimal amount of CH2Cl2 and hexanes are added to affect recrystallization. The solution is placed in the freezer for 18 h after which the product is collected and dried (0.037 g, 57%).

reactant | N-(4-chlorobenzyl)-8-iodo-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide | 0.074 g | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CC2CCOCC2)I)C)C=C1 | C24H24ClIN2O3
reactant | 3-butyn-1-ol | 0.02 mL | C(CC#C)O | C4H6O
solvent | diethylamine | 7 mL | C(C)NCC | C4H11N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | copper iodide | 0.013 g | [Cu](I)I
catalyst | Pd(PPh3)2Cl2 | 0.007 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(4-chlorobenzyl)-8-(4-hydroxy-1-butynyl)-1-methyl-4-oxo-6-(tetrahydro-2H-pyran-4-ylmethyl)-1,4-dihydro-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C2=CN(C3=C(C=C(C=C3C2=O)CC2CCOCC2)C#CCCO)C)C=C1 | C28H29ClN2O4
